US07947851B2
Step b) Formation of 5-({4-[(4-butylphenyl)ethynyl]benzyl}(ethyl)amino)-2-fluorobenzoic acid
The title compound was prepared following the procedure described in Example 23 step c) using methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}(ethyl)amino)-2-fluorobenzoate (293 mg, 0.66 mmol) in EtOH. The title compound was obtained as a white powder (258 mg, 91%). HPLC, Rt: 5.0 min (purity: 99.2%). LC/MS, M−(ESI): 428.0. 1H NMR (CDCl3) δ: 7.48 (d, J=7.9 Hz, 2H), 7.44 (d, J=7.9 Hz, 2H), 7.32 (m, 1H), 7.22 (d, J=7.9 Hz, 2H), 7.16 (d, J=7.9 Hz, 2H), 6.99 (dd, J=10.2, 9.4 Hz, 1H), 6.84 (m, 1H), 4.51 (s, 2H), 3.50 (q, J=6.8 Hz, 2H), 2.62 (t, J=7.6 Hz, 2H), 1.61 (m, 2H), 1.36 (m, 2H), 1.22 (t, J=6.8 Hz, 3H), 0.93 (t, J=7.4 Hz, 3H).

reactant | methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}(ethyl)amino)-2-fluorobenzoate | 0.66 mmol, 293 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)OC)C2)F)CC)C=C1 | C29H30FNO2
solvent | EtOH | CCO | C2H6O
product | 5-({4-[(4-butylphenyl)ethynyl]benzyl}(ethyl)amino)-2-fluorobenzoic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)F)CC)C=C1 | C28H28FNO2
